US04207317
The suspension of 3.1 g of 1-(p-chlorophenyl)-3-methyl-2-pyrazolin-5-one in 100 ml of benzene is treated with 1.8 g of triethylamine, warmed until dissolution and combined with 2.1 g of p-fluorophenylisocyanate while stirring. After standing overnight at room temperature it is evaporated, the residue taken up in methanol and the solution treated with the mixture of 10 ml of 5 N hydrochloric acid and 250 ml of water. The mixture is extracted with ethyl acetate, the extract washed with water, dried and evaporated. The crude solid is dissolved in 2 N aqueous sodium hydroxide, the solution filtered and acidified with 5 N hydrochloric acid. The precipitate is collected, washed with water and recrystallized from ethyl acetate-petroleum ether, to yield the 1-(p-chlorophenyl)-3-methyl-4-(p-fluorophenylcarbamoyl)-2-pyrazolin-5-one melting at 240°-242° with decomposition.

reactant | 1-(p-chlorophenyl)-3-methyl-2-pyrazolin-5-one | 3.1 g | ClC1=CC=C(C=C1)N1N=C(CC1=O)C | C10H9ClN2O
reactant | triethylamine | 1.8 g | C(C)N(CC)CC | C6H15N
reactant | p-fluorophenylisocyanate | 2.1 g | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1-(p-chlorophenyl)-3-methyl-4-(p-fluorophenylcarbamoyl)-2-pyrazolin-5-one | ClC1=CC=C(C=C1)N1N=C(C(C1=O)C(NC1=CC=C(C=C1)F)=O)C | C17H13ClFN3O2
